US07622486B2
Synthesis of 4-(2,6-dichloro-pyridin-4-yl)-morpholine
A mixture of morpholine (0.604 g, 6.04 mmol) in dry DMSO and NaH (0.251 g, 6.6 mmol) was stirred for 30 minutes at 0° C., after which time 2,4,6-trichloropyridine (1.0 g, 5.50 mmol) was added. This reaction mixture was stirred at room temperature for 4 hours, after which time ice cold water was added to quench the reaction (100 mL). The reaction mixture was then extracted with ethyl acetate, and the extract was washed with 3-4 times water. The organic layer was dried over sodium sulphate and concentrated under vacuum. The residue was purified by column chromatography over 100-200 mesh silica gel. Elution of the column with 20% acetone in hexanes gave the pure product as a colorless solid (0.565 g, yield 44%).

reactant | morpholine | 6.04 mmol, 0.604 g | N1CCOCC1 | C4H9NO
reactant | NaH | 6.6 mmol, 0.251 g | [H-].[Na+]
reactant | 2,4,6-trichloropyridine | 5.50 mmol, 1.0 g | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(2,6-dichloro-pyridin-4-yl)-morpholine | 0.565 g, yield 44% | ClC1=NC(=CC(=C1)N1CCOCC1)Cl | C9H10Cl2N2O
